US05486614
A suspension of 740 mg (7.77 mmol) of guanidine hydrochloride in 5 mL of ethanol was neutralized by addition of 950 mg (7.77 mmol) of potassium tert-butoxide. The precipitated potassium chloride was filtered with filter aid and washed with an additional 5 mL of ethanol. A solution of 720 mg (1.94 mmol) of (3RS, 5R)-2-thioxo-3-ethylcarboxy-5-[2-(4-bromophenyl)ethyl]piperidine in 5 mL ethanol was added to the liltrate and this solution was reduced to a volume of 2-3 mL under vacuum. The solution was heated in an oil bath (T=90° C.) under a stream of nitrogen for 2 h. After cooling to ambient temperature, the mixture was subjected to further vacuum evaporation. The resulting solid was suspended in water, sonicated to form a uniform suspension, and neutralized to pH 7 by addition of 1N aq. HCl. The resulting suspension was heated to about 90° C. for 15 min, then cooled to ambient temp. and filtered. The product was dried in vacuo (10 torr), affording 544 mg (80%) of (R)-(-)-2-amino-4-hydroxy-6-[2-(4-bromophenyl)ethyl]-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine mp 275°-283° C., [α]589 -30.9° (c 1, DMF), 1H NMR (DMSO-d6) δ9.70 (bs, 1H), 7.40 (d, J=8.3 Hz, 2H), 7.12 (d, J=8.3 Hz, 2H), 6.23 (d, J=8.3 Hz, 2H), 5.96 (s, 2H), 3.15 (bd, J=11 Hz, 1H), 2.45 (m, 2H), 1.78 (dd, J=8.6, 15.1, 1H), 1.50 (m, 3H); IR (KBr) 3400, 3343, 1678, 1642 cm-1 ; MS (EI), m/z 350 (78), 348 (72), 166 (100), 165 (95), 164 (31), 151 (68), 139 (19). The NMR spectrum was identical with that of a sample of (S)-(+)-3 obtained as described in U.S. Pat. No. 5,008,391.

reactant | guanidine hydrochloride | 7.77 mmol, 740 mg | Cl.NC(=N)N
reactant | potassium tert-butoxide | 7.77 mmol, 950 mg | CC(C)([O-])C.[K+]
reactant | (3RS, 5R)-2-thioxo-3-ethylcarboxy-5-[2-(4-bromophenyl)ethyl]piperidine | 1.94 mmol, 720 mg | S=C1N(C[C@@H](CC1CC)CCC1=CC=C(C=C1)Br)C(=O)O | C16H20BrNO2S
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (R)-(-)-2-amino-4-hydroxy-6-[2-(4-bromophenyl)ethyl]-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine | 544 mg, 80% | NC=1N=C(C2=C(N1)NC[C@@H](C2)CCC2=CC=C(C=C2)Br)O | C15H17BrN4O
